US03976695
The 2-fluoroveratraldehyde used as indicated above is prepared as follows: 3-fluoroveratrole is reacted with monochloromethyl ether in glacial acetic acid to give 2-fluoro-3,4-dimethoxybenzyl chloride which is treated with hexamethylenetetramine in chloroform followed by refluxing in 50% acetic acid to yield the 2-fluoroveratraldehyde.

reactant | 2-fluoroveratraldehyde | FC1=C(C=O)C=CC(=C1OC)OC | C9H9FO3
reactant | 3-fluoroveratrole | FC1=C(C(=CC=C1)OC)OC | C8H9FO2
reactant | monochloromethyl ether | ClCOCCl | C2H4Cl2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-fluoro-3,4-dimethoxybenzyl chloride | FC1=C(CCl)C=CC(=C1OC)OC | C9H10ClFO2
